US06077954
m-phthalimidomethyl-α-Bromo-xylene
α,α'-Dibromo-m-xylene is refluxed with potassium phthalimide (1.0 equivalent) in acetonitrile to give the title compound.

reactant | α,α'-Dibromo-m-xylene | BrCC1=CC(=CC=C1)CBr | C8H8Br2
reactant | potassium phthalimide | 1.0 equivalent | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | acetonitrile | C(C)#N | C2H3N
product | m-phthalimidomethyl-α-Bromo-xylene | C1(C=2C(C(N1CC1=C(C(=CC=C1)CBr)C)=O)=CC=CC2)=O | C17H14BrNO2
